US03932318
In a 50 ml. glass polymerization tube was placed a sealed vial containing 0.2 ml. of a 2 molar solution of lithium tert-butoxide in cyclohexane and several steel balls. Chloral (30 g.) was added to the tube and dimethylketene (1.2 g.) was then condensed into the tube. The supernatant air in the tube was evacuated after which the tube was sealed and heated to 60°C. The tube was shaken vigorously to cause the steel balls to break the vial containing the initiator and to produce a homogeneous solution. After the contents of the tube had come to rest it was placed without agitation in a -30°C. bath. Polymerization commenced in the placid mixture almost immediately. The tube was taken out after an hour and the polymerization was allowed to go to completion overnight at room temperature. The initial yellow color of the solution almost completely disappeared during the polymerization. The tube was opened and a tough and stiff chloral-dimethylketene copolymer was obtained. Elemental analysis for carbon and hydrogen indicated the polymer contained 6% of dimethylketene, and the infrared spectrum of the polymer showed a strong ester band at 5.75 μ.

reactant | lithium tert-butoxide | CC(C)([O-])C.[Li+]
reactant | Chloral | 30 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | dimethylketene | 1.2 g | CC(=C=O)C | C4H6O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | chloral dimethylketene | O=CC(Cl)(Cl)Cl.CC(=C=O)C | InChI=1S/C4H6O.C2HCl3O/c1-4(2)3-5;3-2(4,5)1-6/h1-2H3;1H
